US08053603B2
10.1. Synthesis of (E)-4-(3,4-dichlorophenyl)-1-(3-methoxyphenyl)but-3-en-2-one (29b)
The title compound was prepared in 36% yield from 1-(3-methoxyphenyl)propan-2-one and 3,4-dichlorobenzaldehyde following the procedure outlined in Example 9.1 above. 1H NMR (CDCl3, δ): 7.56 (d, J=2.0 Hz, 1H) 7.48 (d, J=16.0 Hz, 1H), 7.42 (d, J=8.3 Hz, 1H), 7.3 (m, 2H), 6.8(m, 3H), 6.73 (d, J=16.0 Hz, 1H), 3.88 (s, 2H), 3.79 (s, 3H). 13C NMR (CDCl3, δ): 196.5, 159.8, 140.4, 135.3, 134.4, 134.3, 133.1, 130.8, 129.8, 129.7, 127.3, 126.2, 121.7, 115.1, 112.5, 55.1, 48.7.

reactant | 1-(3-methoxyphenyl)propan-2-one | COC=1C=C(C=CC1)CC(C)=O | C10H12O2
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | (E)-4-(3,4-dichlorophenyl)-1-(3-methoxyphenyl)but-3-en-2-one | 36% yield | ClC=1C=C(C=CC1Cl)/C=C/C(CC1=CC(=CC=C1)OC)=O | C17H14Cl2O2
